US04861885
EXAMPLE 12: Preparation of allylbicyclo[2.2.1]hept-5-ene-2-carboxylic acid N-furfurylamide
21.4 g of furfurylamine and 39.3 g of allylbicyclo[2.2.1]hept-5-ene-2-carbonyl chloride are reacted in accordance with process A, affording 38.1 g (73.8% of theory) of a reddish brown liquid resin; η25 =1287.2 m Pas.

reactant | furfurylamine | 21.4 g | C(C1=CC=CO1)N | C5H7NO
reactant | allylbicyclo[2.2.1]hept-5-ene-2-carbonyl chloride | 39.3 g | C(C=C)C12C(CC(C=C1)C2)C(=O)Cl | C11H13ClO
product | allylbicyclo[2.2.1]hept-5-ene-2-carboxylic acid N-furfurylamide | C(C1=CC=CO1)NC(=O)C1C2(C=CC(C1)C2)CC=C | C16H19NO2
